US07432262B2
Tert-butyl N′-(2-phenylsulphonyl-ethyl)-hydrazinecarboxylate
A solution of 0.79 g tert-butyl hydrazinecarboxylate and 1.00 g phenylvinylsulphone in 8 ml of ethanol is refluxed for 5 h with stirring. Then the solvent is removed completely and the residue is chromatographed over silica gel (cyclohexane/ethyl acetate).

reactant | tert-butyl hydrazinecarboxylate | 0.79 g | N(N)C(=O)OC(C)(C)C | C5H12N2O2
reactant | phenylvinylsulphone | 1.00 g | C1(=CC=CC=C1)S(=O)(=O)C=C | C8H8O2S
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | Tert-butyl N′-(2-phenylsulphonyl-ethyl)-hydrazinecarboxylate | C1(=CC=CC=C1)S(=O)(=O)CCNNC(=O)OC(C)(C)C | C13H20N2O4S
